Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old woman with past medical history of
anxiety and heroine-use disorder (in remission for ___ years) 
who
presented to BI-P after suffering first an unwitnessed fall
outside complicated by left facial bruising and injury to upper
incisors and canines followed by an witnessed convulsive episode
by her mother, lasting approximately 90 seconds. (Attempted to
reach her mother by phone for collateral without success, no one
picked up). At ___-P, she reportedly (per chart review) suffered
another full-body convulsive episode described as a generalized
tonic-clonic seizure (but no other descriptors) lasting
approximately 90 seconds. She was transferred to ___ for
further management. History obtained per patient and chart
review, as her mother was not available for collateral over the
phone.

 Per patient, she does not remember the first event. She was
ouside with her son and then ___ know wat was going on. Then
second one she felt her neck stiffening up and couldn't move it
and then only remembered waking up when it was over and 
realizing
that her face hurt. She walked to the mirror and then saw that
she truly hurt her face. She again doesn't remember the second 
or
the third convulsive episodes (those witnessed by her mother and
by BI-P. She does report "twitchiness" just before the event,
describes twitching of both her arms then her legs without clear
spread from a single focus. She endorses memory loss of the 
event
with some fogginess of details leading up to event. 

She endorses being in her usual state of health leading up to
this event. Specifically, she denies recent sickness, dysuria,
trauma, pregnancy, change in medications, recent drug or alcohol
use. She says that she has not had any headaches or changes in
her thoughts or behaviors. No recent travel history.

She does endorse sleeping a little less than usual, as she is
stressed about her housing situation, which will have to change
in the next few months when her mother moves out of the house
they are in to live with her sister (the patient and her son 
will
need to find alternative housing arrangements). 

 At ___:  
 - s/p 2mg IV Ativan  
 - s/p fospheny load 1g IV (timing)  
 - transferred to ___ for further management/OMFS eval

With regards to her anxiety, the patient says that ever since 
she
gave birth to her son, she has suffered anxiety attacks with
whole-body tensing and severe anxiety. These episodes happen
about once a week and last between ___ minutes, sometimes
throughout the day. They are not accompanied by memory loss or
twitching. They subside with PRN Xanax (0.5 mg), which she ends
up taking ___ times a week. She does not endorse having this
feeling of " whole body tightness this week" or in the time
leading up to her episode.   

 
Past Medical History:
History of heroine use (quit ___ years ago)  
No history of seizures when she was a child  
Anxiety  
 
Social History:
___
Family History:
 No family history of seizures that patient knows of 
 
Physical Exam:
___ 0740 Temp: 98.0 AdultAxillary BP: 103/69 HR: 62 RR: 16 
O2 sat: 97% O2 delivery: RA 
HEENT: left facial abrasions, erythema, edema. Missing central 
incisors. Area of swelling on left lateral tongue. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, NT/ND
Extremities: some minor abrasions on wrists, fingers and elbows 
bilatterally
Skin: no rashes or lesions noted.  
Neurologic: 
-MS alert and oriented to person, place, time and situation. 
Fluent speech with normal prosody. No paraphasic errors.
-CN: Pupils 8 to 3.5 bilaterally (brisk). EOMI intact with 
smooth pursuit and no nystagmus. No facial weakness or sensory 
loss.
-Motor: normal bulk and tone. No weakness
-Sensory: no sensory loss to gross touch throughout
-Reflexes: not tested
-Coordination: not tested
-Gait: not tested

 
Pertinent Results:
___ 04:25AM BLOOD WBC-7.0 RBC-3.85* Hgb-11.9 Hct-36.0 
MCV-94 MCH-30.9 MCHC-33.1 RDW-13.5 RDWSD-46.2 Plt ___
___ 06:03AM BLOOD ___ PTT-28.1 ___
___ 06:03AM BLOOD Glucose-120* UreaN-13 Creat-0.6 Na-141 
K-4.3 Cl-104 HCO3-25 AnGap-12
___ 06:03AM BLOOD ALT-55* AST-47* AlkPhos-52
___ 06:03AM BLOOD Albumin-3.7 Calcium-8.2* Phos-3.2 Mg-2.1
___ 12:05AM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.7 Mg-2.1
___ 06:03AM BLOOD TSH-0.82
___ 04:25AM BLOOD Phenyto-13.6
___ 12:05AM BLOOD Phenyto-17.0
___ 12:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
___ with PMH heroin abuse (quit ___ years ago) presented with 
multiple witnessed episodes of generalized convulsions with 
anterograde amnesia. The patient reports having left head turn 
with jerking before losing awareness and having a generalized 
tonic clonic seizure. One of the seizures resulted in a fall 
with multiple facial abrasions, contusions and loss of 3 teeth 
including central incisors. One of the generalized tonic-clonic 
seizures was witnessed in the emergency department at 
___. The seizure lasted 90 seconds and she was given 2mg 
IV Ativan and 1g of fosphenytoin and transferred to ___ for 
further management. Her trigger appeared to be stress related. 
The patient's niece started living with her ___ years ago, and 
the patient has had panic attacks approximately weekly that 
coincide when the patient's sister visits her and the patient's 
niece. The patient reports that she is very fond of her niece 
and thinks of her as one of her own children (she has one ___ year 
old son). On the day of her first seizure, the patient's sister 
had come and picked up the patient's niece for the day, which 
she had never done before. The patient denied any recent 
illness, dysuria, trauma, change in medications, recent drug or 
alcohol use. She denied any headaches, changes in vision, 
behaviors. No recent travel history.

MRI was unremarkable and EEG showed some background slowing but 
no epileptiform discharges. Due to the multiple complex partial 
seizures that then generalized leading to injury, she was 
started on lacosamide 100mg BID, and phenytoin 200mg qAM and 
phenytoin 100mg qPM. 

Patient decided to leave AMA so she was given a prescription for 
keppra 1000mg qam and 1500mg qpm with a phenytoin taper.

Transitional Issues:
-Follow-up with neurology per Atrius
-Taper off phenytoin 
-Repeat 3T MRI in ___ months
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone Film (12mg-3mg) 1 FILM SL DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO QAM 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth every morning 
Disp #*30 Tablet Refills:*2 
2.  LevETIRAcetam 1500 mg PO QPM 
RX *levetiracetam 500 mg 3 tablet(s) by mouth every evening Disp 
#*90 Tablet Refills:*2 
3.  Phenytoin Infatab 100 mg PO SEE SIG 
Take 200mg ___ am, 100mg ___ pm, 100mg ___ am and pm, 100mg 
___ am. 
RX *phenytoin 50 mg X tablet(s) by mouth see below Disp #*12 
Tablet Refills:*0 
4.  Buprenorphine-Naloxone Film (12mg-3mg) 1 FILM SL DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial complex seizure disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had several 
witnessed events where you had a seizure and did not remember 
what happened. The fact that you experienced your neck turning 
to the left followed by some jerking motion tells us that these 
events are seizures. Therefore, you need to be on a medication 
to prevent you from having seizures again. The imaging of your 
brain was normal. Below is a handout about seizures. It is 
important that you do not stop your medications for any reason 
without talking to your doctor, because that puts you at risk 
for having a seizure. Other things that can lower your threshold 
include stress and infection. It is therefore important to find 
good ways to manage stress and anxiety.

While you were at the hospital, you were seen by oral surgery. 
There were no broken bones in your face, but you did lose 3 
teeth. You should follow-up with your dentist.
You should follow-up with a neurologist that your primary care 
provider refers you to in approximately 2 months.

Thank you for involving us in your care.

___ Neurology

MEDICATIONS

Take your seizure medications as prescribed. Missing doses of 
seizure medication can result in death, injury, or more frequent 
seizures. Please call your doctor before you run out of 
medication if you need refills.

___

___ stands for Sudden Unexpected Death in Epilepsy.

Are you ___ aware? Check this link: ___

BONE HEALTH

Long term anti-seizure medication can lower bone density, and 
this can result in osteopetrosis. It is recommended that some 
patients taking anti-seizure medication take a supplement of 
calcium and vitamin D, depending on the anti-seizure medication. 
Ask your doctor about this. The supplements can be prescribed or 
over-the-counter. Calcium should be at least 500mg twice per 
day, and vitamin D should be at least 800 international units 
total per day.

DEPRESSION

Depression is very common in patients with epilepsy. Talk with 
your doctor if you find that you are suffering from signs of 
depression.

PATIENT ADVOCACY, RESOURCES, COMMUNITY:

___  - the leading portal for people, 
caregivers and professionals dealing with epilepsy

SEIZURE DIARY

Patients with seizures should keep track each seizure: when did 
it happen, what happened, where there any triggers, etc. This 
can be easily done in a small notebook, a calendar, or a mobile 
phone. A very helpful, FREE resource for this is a website 
called Seizuretracker. They also include a mobile app for 
phones. ___/

SAFETY:

Patients at risk for seizures that involves loss of 
consciousness must avoid:

- Driving (at least ___ months after a seizure...

            ...UNTIL A PHYSICIAN STATES THAT IT IS ___

- unattended baths, unattended swimming,power tools, heavy 
machinery

- ladders, high platforms, roofs

- any other activity that could pose a safety risk if there was 
a loss of consciousness or uncontrolled body movements

For any seizure involving loss of consciousness, do the 
following:

1. Don't panic - take a deep breath

2. Look at the clock to see what time the seizure started. 

3. If the patient is shaking for more than 5 minutes - or has 
repeated seizures without returning to normal in between, call 
___ this is an emergency.

4. As much as possible, move things away from the patient's head 
to avoid injury

5. Use pillows or towels to protect the from injury

6. Put them on a bed, couch, or the floor ON THEIR SIDE. This is 
to avoid a condition called aspiration pneumonia, when vomit 
goes into the lungs.

7. DO NOT PUT ANYTHING IN THEIR MOUTH. Patients don't swallow 
their tongues despite the old wives tale. However, putting 
things inside the mouth could lead to choking hazard.
 8. When the seizure is over and you are sure they are safe, 
please call the neurology clinic to let us know about a seizure. 


 
Followup Instructions:
___